US08242151B2
2-ethoxy-5,7-dimethyl-3H-imidazo[4,5-b]pyridine
2,3-Diamino-4,6-dimethylpyridine (U.S. Pat. No. 5,332,744; 2.70 g, 19.7 mmol) and tetraethoxymethane (16.5 mL, 78.7 mmol) were mixed, and the mixture was stirred at 155° C. for 2 hr. The mixture was cooled to room temperature, and diisopropyl ether (30 mL) was added. The precipitated solid was collected by filtration to give the title compound (2.42 g, 64%).

reactant | 2,3-Diamino-4,6-dimethylpyridine | NC1=NC(=CC(=C1N)C)C | C7H11N3
reactant | tetraethoxymethane | 78.7 mmol, 16.5 mL | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | diisopropyl ether | 30 mL | C(C)(C)OC(C)C | C6H14O
product | 2-ethoxy-5,7-dimethyl-3H-imidazo[4,5-b]pyridine | 2.42 g, 64% | C(C)OC1=NC=2C(=NC(=CC2C)C)N1 | C10H13N3O
